US05356918
N-(2-Nitrooxyethyl)-5-(4-chlorophenyl)-2-oxothiazolidine-4-carboxamide (Compound No. 1-13)
A procedure similar to that described in Example 1 was repeated, but using 394 mg of N-(2-nitrooxyethyl)amine nitrate and 500 mg of 5-(4-chlorophenyl)-2-oxothiazolidine-4-carboxylic acid, to obtain 350 mg of the title compound as colorless needles, melting at 125°-127° C. (after recrystallization from methylene chloride).

reactant | N-(2-nitrooxyethyl)amine nitrate | 394 mg | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
reactant | 5-(4-chlorophenyl)-2-oxothiazolidine-4-carboxylic acid | 500 mg | ClC1=CC=C(C=C1)C1C(NC(S1)=O)C(=O)O | C10H8ClNO3S
product | N-(2-Nitrooxyethyl)-5-(4-chlorophenyl)-2-oxothiazolidine-4-carboxamide | [N+](=O)([O-])OCCNC(=O)C1NC(SC1C1=CC=C(C=C1)Cl)=O | C12H12ClN3O5S
